US06080743
a) N-[2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl]-3-amino-benzoic acid
350 mg (1.06 mmol) of 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline, 153 mg (1.05 equiv.) of 3-aminobenzoic acid and 0.165 ml (1.1 equiv.) of triethylamine are combined in 10 ml of acetonitrile, and heated at boiling at reflux for 24 hours. The reacton mixture is concentrated by evaporation, extracted with ethyl acetate and 1 N HCl and washed once with brine. The organic phases are combined, dried over magnesium sulfate and concentrated by evaporation.

reactant | 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline | 1.06 mmol, 350 mg | BrCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H10BrN3O4
reactant | 3-aminobenzoic acid | 153 mg, 1.05 equiv. | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | triethylamine | 0.165 ml, 1.1 equiv. | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl]-3-amino-benzoic acid | COC1=NC2=CC(=CC(=C2N=C1OC)CNC=1C=C(C(=O)O)C=CC1)[N+](=O)[O-] | C18H16N4O6
